US08222266B2
Preparation 28: 4-(2-Methyl-pyridin-4-yl)-2-methylsulfanyl-pyrimidine (Prep28)
To a solution of 4-chloro-2-methylsulfanyl-pyrimidine (781 mg, 4.86 mmol) in degassed nPrOH (55 ml), 2-methylpyridine-4-boronic acid (800 mg, 5.84 mmol), Na2CO3 (619 mg, 5.47 mmol), triphenylphosphine (127 mg, 0.486 mmol) and Pd(OAc)2 (32 mg, 0.15 mmol) were added. The mixture was stirred at 100° C. for 1 hour. The solvent was evaporated under vacuum, and the crude was dissolved in DCM and washed with water. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (20-0.1-0.2) to give 990 mg of the title compound (93% yield).

reactant | 4-chloro-2-methylsulfanyl-pyrimidine | 4.86 mmol, 781 mg | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | 2-methylpyridine-4-boronic acid | 5.84 mmol, 800 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
reactant | Na2CO3 | 5.47 mmol, 619 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 0.486 mmol, 127 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | nPrOH | 55 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.15 mmol, 32 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(2-Methyl-pyridin-4-yl)-2-methylsulfanyl-pyrimidine | 990 mg, 93% yield | CC1=NC=CC(=C1)C1=NC(=NC=C1)SC | C11H11N3S
